US04161611
Preparation of 2-Methoxy-3,6-dichlorobenzoic Acid
2-Hydroxy-3,6-dichlorobenzoic acid (44.4 g) is dissolved in a solution of potassium hydroxide (11.2 g, 0.2 mole) and water (100 ml). The solution is heated to reflux (about 100° C.) and stirred vigorously while dimethyl sulfate (63.1 g, 0.5 mole) is added dropwise. The reaction mixture is then treated with a solution of potassium hydroxide (14.0 g, 0.25 mole) in 25.0 ml of water and refluxed for an additional 2 hours. The reaction mixture is then cooled and acidified to Congo red with hydrochloric acid to precipitate the desired 2-methoxy-3,6-dichlorobenzoic acid.

reactant | 2-Hydroxy-3,6-dichlorobenzoic acid | 44.4 g | OC1=C(C(=O)O)C(=CC=C1Cl)Cl | C7H4Cl2O3
reactant | potassium hydroxide | 0.2 mole, 11.2 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.5 mole, 63.1 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium hydroxide | 0.25 mole, 14.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 25.0 ml | O | H2O
product | 2-Methoxy-3,6-dichlorobenzoic Acid | COC1=C(C(=O)O)C(=CC=C1Cl)Cl | C8H6Cl2O3
